US04622422
To a stirred solution of 4.4 g of 4-methoxybenzenepropionic acid and 75 ml of tert-butanol, 50 ml of tetrahydrofuran and 300 ml of liquid ammonia there was added 0.85 g of lithium wire in 2-3 cm pieces over a 10 minute period to give a mixture which had a persistent deep blue color. After an additional 10 minutes, 13.4 g of powdered ammonium chloride was added and the ammonia was allowed to evaporate. The residue was dissolved in 300 ml of water and washed twice with 200-ml portions of ether. The aqueous mixture was acidified with concentrated hydrochloric acid and extracted thoroughly with three 200-ml portions of ether. The combined organic layers were dried over magnesium sulfate and the solvent was evaporated to give 4-oxocyclohex-1-enepropionic acid as a clear oil. 1H NMR (CDCl3) δ 2.20-2.80 (br m, 20H); 5.45 (m, 1H); 11.3 (br s, 1H).

reactant | 4-methoxybenzenepropionic acid | 4.4 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | ammonia | N | H3N
reactant | lithium | 0.85 g | [Li] | Li
reactant | ammonium chloride | 13.4 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tert-butanol | 75 ml | C(C)(C)(C)O | C4H10O
product | 4-oxocyclohex-1-enepropionic acid | O=C1CC=C(CC1)CCC(=O)O | C9H12O3
